US05670526
To a solution of sodium methoxide, prepared from Na (8.62 g, 0.375 mol) and MeOH (500 ml), was added 4-nitro-2,3,5-trimethylpyridine-N-oxide (45.5 g, 0.25 mol). The reaction mixture was refluxed for 5 h, cooled to rt and most of the solvent removed in vacuo. The slurry was diluted with water (100 ml) and extracted with CH2Cl2 (3×100 ml). The extracts were combined, washed with sat. NaCl solution, dried (MgSO4) and the solvent removed in vacuo to give 4-methoxy-2,3,5-trimethylpyridine-N-oxide as a semi-solid (37.5 g, 90%).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 4-nitro-2,3,5-trimethylpyridine-N-oxide | 0.25 mol, 45.5 g | [N+](=O)([O-])C1=C(C(=[N+](C=C1C)[O-])C)C | C8H10N2O3
solvent | MeOH | 500 ml | CO | CH4O
product | 4-methoxy-2,3,5-trimethylpyridine-N-oxide | 37.5 g, 90% | COC1=C(C(=[N+](C=C1C)[O-])C)C | C9H13NO2
